US06774138B2
To a solution of 2-ethynylpyridine (1.0 g, 10 mmol) in TMF at −78° C. was added a 1.0 M solution of ethyl magnesium bromide in THF (10 mL, 10 mmol). After stirring at reduced temperature for 30 minutes a solution of 3,3,5,5-tetramethylcyclohexanone (1.5 g, 10 mmol) in THF was added rapidly. The mixture was allowed to warm to ambient temperature over 16 hours, then partitioned between water and ethyl acetate. The organic layer was dried over anhydrous Na2SO4, and concentrated in vacuo. The resultant product was purified by flash column chromatography on silica gel eluting with 1:1 hexane:ethyl acetate to afford 3,3,5,5-tetramethyl-1-(2-pyridinylethynyl)cyclohexanol (250 mg, 10% yield) as a white solid. M.p. 126-127° C. 1H NMR (DMSO-d6, 300 MHz) δ 8.57 (m, 1H), 7.64 (m, 1H), 7.39 (d, J=5 Hz, 1H), 7.22 (m, 1H), 1.91 (d, J=9 Hz, 2H), 1.71 (d, J=9 Hz, 2H), 1.26 (s, 2H), 1.14 (s, 6H), 1.09 (s, 6H).

reactant | 2-ethynylpyridine | 10 mmol, 1.0 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 3,3,5,5-tetramethylcyclohexanone | 10 mmol, 1.5 g | CC1(CC(CC(C1)(C)C)=O)C | C10H18O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mmol, 10 mL | C1CCOC1 | C4H8O
product | 3,3,5,5-tetramethyl-1-(2-pyridinylethynyl)cyclohexanol | 250 mg, 10% yield | CC1(CC(CC(C1)(C)C)(O)C#CC1=NC=CC=C1)C | C17H23NO
